US07968746B2
Oxidation as described in protocol B, using 505 mg (1.64 mmol) of 6-hydroxy-N-(2-hydroxypropyl)-2,5,7,8-tetramethylchroman-2-carboxamide and 1.99 mg CAN (3.62 mmol) yielded 496 mg of 2-hydroxy-N-(2-hydroxypropyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil.

reactant | 6-hydroxy-N-(2-hydroxypropyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 1.64 mmol, 505 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCC(C)O)C)C | C17H25NO4
reactant | CAN | 3.62 mmol, 1.99 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-hydroxy-N-(2-hydroxypropyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 496 mg | OC(C(=O)NCC(C)O)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C17H25NO5
